US04898854
A mixture of 1.10 g of 2-cyano-4-(diethylphosphonomethyl)pyridine and 4.5 ml of concentrated sulfuric acid is heated at 90° for 5 minutes. The reaction mixture is poured onto ice and neutralized with 10% sodium hdroxide. The resulting precipitate is collected to afford 4-(diethylphosphonomethyl)-2-pyridinecarboxamide melting at 140°-142°.

reactant | 2-cyano-4-(diethylphosphonomethyl)pyridine | 1.10 g | C(#N)C1=NC=CC(=C1)CP(=O)(OCC)OCC | C11H15N2O3P
reactant | sulfuric acid | 4.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium | [Na] | Na
product | 4-(diethylphosphonomethyl)-2-pyridinecarboxamide | C(C)OP(=O)(OCC)CC1=CC(=NC=C1)C(=O)N | C11H17N2O4P
